US07384934B2
2-(2-Nitro-4-trifluoromethyl-phenylamino)-benzo[b]thiophene-3-carbonitrile
Combine 2-amino-benzo[b]thiophene-3-carbonitrile (3.48 g, 20.0 mmol), 1-Fluoro-2-nitro-4-trifluoromethyl-benzene (4.31 g, 20.0 mmol), and lithium hydroxide (0.958 g, 40.0 mmol) in anhydrous dimethylsulfoxide (50 mL), and heat at 55° C. for 2 hours. Cool to ambient temperature, pour into a beaker filled with ice/deionized water (50 mL), and stir for 30 minutes. Add deionized water and dichloromethane and then separate the organic layer. Extract the aqueous layer with dichloromethane many times. Then wash the organics with deionized water (3×). Combine the washes and back extract them with dichloromethane. Wash the organics with a saturated solution of sodium chloride, and back extract the combined washes with dichloromethane. Dry (sodium sulfate), filter, and concentrate the organics under reduced pressure to a residue. After triturating the residue with methanol, isolate the resulting solid by suction filtration, wash with methanol, and dry at ambient temperature under reduced pressure to give the title compound (4.61 g). Concentrate the filtrate under reduced pressure and purify by flash chromatography, eluting with a gradient of ethyl acetate: dichloromethane: hexane (0.25:5:5, 0-100% in hexane) to give the title compound (0.53 g). Total solid: 5.14 g (70.8%). NMR (1H, 300 MHz, CDCl3), δ (ppm): 10.26 (s, 1H), 8.63-8.56 (m, 1H), 7.93-7.85 (m, 1H), 7.84-7.75 (m, 2H), 7.64-7.45 (m, 3H).

reactant | 2-amino-benzo[b]thiophene-3-carbonitrile | 20.0 mmol, 3.48 g | NC1=C(C2=C(S1)C=CC=C2)C#N | C9H6N2S
reactant | 1-Fluoro-2-nitro-4-trifluoromethyl-benzene | 20.0 mmol, 4.31 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | lithium hydroxide | 40.0 mmol, 0.958 g | [OH-].[Li+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | 50 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(2-Nitro-4-trifluoromethyl-phenylamino)-benzo[b]thiophene-3-carbonitrile | 4.61 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)NC1=C(C2=C(S1)C=CC=C2)C#N | C16H8F3N3O2S
